US06322777B1
Bis(phenethyloxy)methylvinylsilane, 2
Dichloromethylvinylsilane (80 g, 0.567 moles) was added to a stirred solution of phenethyl alcohol (140 g, 114 moles), triethylamine (TEA, 121 g, 1.2 moles) and Isopar C (700 mL) over one hour during which time the reaction mixture was heated to 70° C. After an additional one hour, the reaction was cooled to room temperature, filtered, concentrated in vacuo and then stripped under high vacuum distilled (110° C./4 mm Hg) to give product (1.66 g, 94%).

reactant | Dichloromethylvinylsilane | 0.567 moles, 80 g | ClC(Cl)C=C[SiH3] | C3H6Cl2Si
reactant | phenethyl alcohol | 114 moles, 140 g | C(CC1=CC=CC=C1)O | C8H10O
reactant | triethylamine | 1.2 moles, 121 g | C(C)N(CC)CC | C6H15N
product | Bis(phenethyloxy)methylvinylsilane | 1.66 g, 94% | C(CC1=CC=CC=C1)OC(OCCC1=CC=CC=C1)C=C[SiH3] | C19H24O2Si
